US06596758B1
4-Phenyl-3-formyl-2H-1-benzopyran
71 ml (0.773 mol) of phosphorus oxychloride are added dropwise to 300 ml of dimethylformamide maintained at 0° C. The reaction mixture is left stirring for 20 minutes at a temperature of between 0 and 5° C. A solution of 16.1 g (77.3 mmol) of 4-phenyl-2H-1-benzopyran in 22.5 ml of dimethylformamide is then added to the reaction mixture. The reaction mixture is allowed to return to room temperature and is then brought to 60° C. for 7 hours. The reaction mixture is then poured into a mixture of ice and water which is neutralized with NaOH. The organic phase is extracted with ethyl acetate and then the organic phase is washed 3 times with water. After drying over anhydrous sodium sulphate, the organic phase is concentrated under reduced pressure. A pasty solid is thus obtained, which solid, after silica column chromatography using a 1/1 methylene chloride/cyclohexane mixture as eluant, results in 15.3 g of the title compound in the form of a yellow solid, the melting point of which is 82-83° C. (yield=83%).

reactant | phosphorus oxychloride | 0.773 mol, 71 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-phenyl-2H-1-benzopyran | 77.3 mmol, 16.1 g | C1(=CC=CC=C1)C1=CCOC2=C1C=CC=C2 | C15H12O
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | dimethylformamide | 22.5 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride cyclohexane | C(Cl)Cl.C1CCCCC1
product | 4-Phenyl-3-formyl-2H-1-benzopyran | 15.3 g, yield=83% | C1(=CC=CC=C1)C1=C(COC2=C1C=CC=C2)C=O | C16H12O2
